.SUBCKT 3input0x26_X1_DH_N A1 A2 A3 VDD VSS Y
MM5 VDD A1 oai21 VDD pmos_rvt w=46.00n l=16n nfin=2
MM3 oai21 A2 n1 VDD pmos_rvt w=46.00n l=16n nfin=2
MM4 VDD A3 n1 VDD pmos_rvt w=46.00n l=16n nfin=2
MM2 oai21 A1 n2 VSS nmos_rvt w=46.00n l=16n nfin=2
MM0 VSS A2 n2 VSS nmos_rvt w=46.00n l=16n nfin=2
MM1 VSS A3 n2 VSS nmos_rvt w=46.00n l=16n nfin=2
MM6 n3 A2 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM7 n3 A3 n4 VDD pmos_rvt w=46.0n l=16n nfin=2
MM9 Y A1 n4 VDD pmos_rvt w=46.0n l=16n nfin=2
MM10 n5 A2 Y VDD pmos_rvt w=46.0n l=16n nfin=2
MM11 n5 A3 Y VDD pmos_rvt w=46.0n l=16n nfin=2
MM8 VDD oai21 n5 VDD pmos_rvt w=46.0n l=16n nfin=2
MM12 n6 oai21 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM13 n7 A2 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM14 n7 A3 n6 VSS nmos_rvt w=46.0n l=16n nfin=2
MM15 Y A1 n6 VSS nmos_rvt w=46.0n l=16n nfin=2
MM16 Y A2 n6 VSS nmos_rvt w=46.0n l=16n nfin=2
MM17 Y A3 n6 VSS nmos_rvt w=46.0n l=16n nfin=2
.ENDS
